US04716169
2-(2,4-Dimethoxy-5-dimethylaminosulphonyl-phenyl)-imidazo[1,2-a]pyrimidine
Prepared from 2-(2,4-dimethoxy-5-chlorosulphonyl-phenyl)-imidazo[1,2-a]pyrimidine (prepared from 2-(2,4-dimethoxyphenyl[1,2-a]pyrimidine and chlorosulphonic acid) and 40% dimethylamine analogously to Example 25.

reactant | 2-(2,4-dimethoxy-5-chlorosulphonyl-phenyl)-imidazo[1,2-a]pyrimidine | COC1=C(C=C(C(=C1)OC)S(=O)(=O)Cl)C=1N=C2N(C=CC=N2)C1 | C14H12ClN3O4S
reactant | chlorosulphonic acid | ClS(=O)(=O)O | ClHO3S
reactant | dimethylamine | CNC | C2H7N
product | 2-(2,4-Dimethoxy-5-dimethylaminosulphonyl-phenyl)-imidazo[1,2-a]pyrimidine | COC1=C(C=C(C(=C1)OC)S(=O)(=O)N(C)C)C=1N=C2N(C=CC=N2)C1 | C16H18N4O4S
